### ISSUE TITLE
Wolf Ch7: commutator form of the Lindblad equation

### ISSUE THREAD

**Issue by LionSR** [LionSR/QICLean#97]
## Goal

Formalize the **double-commutator form** of the Lindblad equation (Wolf Eq. 7.22):

```
L(ρ) = i[ρ, H] + ½ Σ_j ( [L_j, ρ L_j†] + [L_j ρ, L_j†] )
```

and prove its equivalence with the standard form (Eq. 7.21):

```
L(ρ) = i[ρ, H] + Σ_j ( L_j ρ L_j† − ½ {L_j† L_j, ρ}_+ )
```

## What is already proved

- `LindbladForm.toLinearMap` implements Eq. 7.21. ✅
- `gksl_iff_lindbladForm` proves GKSL ↔ Lindblad form. ✅

## What is needed

A purely algebraic identity: expanding the commutators in Eq. 7.22 gives Eq. 7.21. This is a `noncomm_ring`-level computation.

## Files

- `TNLean/Channel/Semigroup/LindbladForm.lean` (or `KossakowskiForm.lean`).

## Difficulty

Easy. This is a direct algebraic rewriting — a one-liner once you unfold `[A, B] = AB − BA`.

**Comment by LionSR** [comment]
@codex This is a straightforward algebraic identity. The commutator form (Wolf Eq. 7.22):

```
L(ρ) = i[ρ, H] + ½ Σ_j ( [L_j, ρ L_j†] + [L_j ρ, L_j†] )
```

is equivalent to the standard Lindblad form (Eq. 7.21):

```
L(ρ) = i[ρ, H] + Σ_j ( L_j ρ L_j† − ½ {L_j† L_j, ρ}_+ )
```

**Plan**:
1. Define `LindbladForm.commutatorForm` as the double-commutator expression.
2. Prove `LindbladForm.commutatorForm_eq_toLinearMap` showing they are equal.
3. The proof is pure algebra: expand `[A, B] = AB - BA` and simplify. Should be doable with `noncomm_ring` or `ring`/`abel` after expanding.

**File**: Add to `TNLean/Channel/Semigroup/LindbladForm/Basic.lean` (where `LindbladForm.toLinearMap` is defined).

**Sketch**:
```lean
def LindbladForm.commutatorForm (F : LindbladForm D) :
    Matrix (Fin D) (Fin D) ℂ →ₗ[ℂ] Matrix (Fin D) (Fin D) ℂ where
  toFun ρ :=
    Complex.I • (ρ * F.H - F.H * ρ) +
    (1/2 : ℂ) • ∑ j, (F.L j * (ρ * (F.L j)ᴴ) - (ρ * (F.L j)ᴴ) * F.L j +
                        F.L j * ρ * (F.L j)ᴴ - (F.L j)ᴴ * (F.L j * ρ))
  ...

theorem LindbladForm.commutatorForm_eq_toLinearMap (F : LindbladForm D) :
    F.commutatorForm = F.toLinearMap := by
  ext ρ
  simp only [commutatorForm, toLinearMap, dissipator]
  -- expand and use noncomm_ring or abel
```

**Comment by LionSR** [comment]
@claude Implement the commutator form of the Lindblad equation as a new def `LindbladForm.commutatorForm` in `TNLean/Channel/Semigroup/LindbladForm/Basic.lean`. It should compute:

```
L(ρ) = i[ρ, H] + 1/2 Σ_j ( [L_j, ρ L_j†] + [L_j ρ, L_j†] )
```

where `[A, B] = A * B - B * A` is the matrix commutator.

Then prove `commutatorForm_eq_toLinearMap : ∀ (φ : Fin r → Mat) (κ : Mat), LindbladForm.commutatorForm φ κ = LindbladForm.toLinearMap φ κ` by expanding the commutator brackets and showing it equals the standard form `L(ρ) = i[ρ, H] + Σ_j (L_j ρ L_j† − 1/2 {L_j† L_j, ρ})`. This is a pure matrix algebra identity — use `ext`, `simp`, `ring`, or `noncomm_ring` tactics.

**Important**: Do NOT just make a trivial alias or `rfl` wrapper. The `commutatorForm` def must explicitly construct the three commutator terms `[L_j, ρ L_j†]`, `[L_j ρ, L_j†]`, and `i[ρ, H]` as separate sub-expressions, then the equivalence proof shows they combine to match `toLinearMap`. Look at the existing `LindbladForm.toLinearMap` definition to understand the types.

Validate with `lake build`.
